US08106043B2
tert-Butyl 3-(7-amino-2H-benzo[b][1,4]thiazin-4(3H)-yl)pyrrolidine-1-carboxylate:
Tris(dibenzylideneacetone)dipalladium(0) (0.056 g, 0.062 mmol) in THF (3 mL) was treated with tri-tert-butylphosphine 10% wt in hexanes (0.748 mL, 0.247 mmol) and was stirred vigorously under argon atmosphere for 10 minutes. tert-Butyl 3-(7-bromo-2H-benzo[b][1,4]thiazin-4(3H)-yl)pyrrolidine-1-carboxylate (0.49 g, 1.233 mmol) in THF (9 mL) and IM LiHMDS in THF (3.70 mL, 3.70 mmol) were added to the mixture. The reaction was sealed, placed in a preheated oil bath, and refluxed at 100° C. The solution was cooled to room temperature, treated with 1M TBAF in THF (8 mL), and was stirred for 40 minutes. The mixture was concentrated and treated with 1N NaOH (50 mL). The mixture was transferred to a separatory funnel, diluted with water (50 mL), and extracted with EtOAc (2×50 mL). The organic phase was washed with brine (50 mL) and dried (Na2SO4). The crude material was subject to flash chromatography on silica gel (25-70% EtOAc/hexanes). The collected fractions were concentrated to give a clear brown oil (0.34 g, 83%). 1H NMR (CDCl3) δ 6.64 (d, J=8.7 Hz, 1H), 6.48 (s, 1H), 6.39 (brs, 1H), 4.08-4.02 (m, 1H), 3.70-3.07 (m, 6H), 3.09-3.07 (m, 2H), 2.08-1.92 (m, 2H), 1.46 (s, 9H); ESI-MS (m/z, %): 338, 336 (MH+, 40), 282, 280 (100).

reactant | tri-tert-butylphosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | tert-Butyl 3-(7-bromo-2H-benzo[b][1,4]thiazin-4(3H)-yl)pyrrolidine-1-carboxylate | 1.233 mmol, 0.49 g | BrC=1C=CC2=C(SCCN2C2CN(CC2)C(=O)OC(C)(C)C)C1 | C17H23BrN2O2S
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | TBAF | 1M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.062 mmol, 0.056 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 3.70 mmol, 3.70 mL | C1CCOC1 | C4H8O
product | tert-Butyl 3-(7-amino-2H-benzo[b][1,4]thiazin-4(3H)-yl)pyrrolidine-1-carboxylate | 0.34 g, 83% | NC=1C=CC2=C(SCCN2C2CN(CC2)C(=O)OC(C)(C)C)C1 | C17H25N3O2S
